US07780953B2
4) Tert-butyl 30-[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-15-oxo-4,7,10,21,24,27-hexaoxa-14,17-diazatriacont-1-ylcarbamate
0.25 g of tert-butyl 30-amino-15-oxo-4,7,10,21,24,27-hexaoxa-14,17-diazatriacont-1-ylcarbamate is dissolved in 1.5 ml of CH2Cl2. 57.5 μl of 3,4-diethoxy-3-cyclobutene-1,2-dione are added.

reactant | tert-butyl 30-amino-15-oxo-4,7,10,21,24,27-hexaoxa-14,17-diazatriacont-1-ylcarbamate | 0.25 g | NCCCOCCOCCOCCCNCC(NCCCOCCOCCOCCCNC(OC(C)(C)C)=O)=O | C27H56N4O9
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 57.5 μl | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
product | Tert-butyl 30-[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-15-oxo-4,7,10,21,24,27-hexaoxa-14,17-diazatriacont-1-ylcarbamate | C(C)OC1=C(C(C1=O)=O)NCCCOCCOCCOCCCNCC(NCCCOCCOCCOCCCNC(OC(C)(C)C)=O)=O | C33H60N4O12
